US04598078
A mixture of 1-(2-pyrimidinyl)piperazine (2 g; 12.2 mmol), acetone (2 ml), 1-bromo-3-chloropropane (2.5 g; 15.9 mmol) and a 25% aqueous sodium hydroxide solution (1.9 ml) was stirred at room temperature for 6 hours. After completion of the reaction, the resultant mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 1-(3-chloropropyl)-4-(2-pyrimidinyl)piperazine. IR νmaxFilm (cm-1): 1595, 1550, 1500.

reactant | 1-(2-pyrimidinyl)piperazine | 12.2 mmol, 2 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | acetone | 2 ml | CC(=O)C | C3H6O
reactant | 1-bromo-3-chloropropane | 15.9 mmol, 2.5 g | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 1.9 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(3-chloropropyl)-4-(2-pyrimidinyl)piperazine | ClCCCN1CCN(CC1)C1=NC=CC=N1 | C11H17ClN4
